US08007766B2
DOTA (32 mg, 66 μmol) and Sulfo-NHS (14 mg, 65 μmol) in H2O (250 μl) were added to EDC (13 mg, 68 μmol) in H2O (250 μl), stirred on ice for 30 min and then warmed to room temperature to give DOTA-sulfo-NHS. A 100 fold excess of DOTA-NHS solution was added dropwise to the oligonucleotide (70-450 nmol) in 1M carbonate buffer (pH 9) and then cooled on ice. The mixture was left at room temperature for 10 hours. The reaction mixture was first purified by gel filtration with NAP 5 columns, eluted with H2O and 100 μL of 1M TEAA (triethylammonium acetate buffer) was added to 1 mL of the product eluate. The product eluate was then applied to a C-18 SPE column (Supelco), the column was washed with 50 mM TEAA (5 mL), 50 mM TEAA containing 5% acetonitrile (3 mL) and the DOTA-oligonucleotide was eluted with water:acetonitrile 50:50 (1 mL). The water-acetonitrile fraction was dried using a vacuum centrifuge. The products were analysed using electrospray ionization mass spectrometry. Analysis in negative mode after direct infusion resulted in the following data: 1. DOTA-phosphodiester: MS (ESI−) m/z: 662.27 [M−8H]8−; 756.36 [M−7H]7−; 882.91 [M−6H]6−. Reconstitution of the data gave M=5303.71; 2. DOTA-phosphorotioate: MS (ES−) m/z: 656.58 [M−8H]9−; 738.56 [M−7H]8−. Reconstitution of the data gave M=5917.35; 3. DOTA-2′-O-methyl phosphodiester: MS (ESI−) m/z: 674.02 [M−6H]9−; 770.19 [M−8H]8−; 885.00 [M−7H]7−. Reconstitution of the data gave M=6148.84.

reactant | DOTA | 66 μmol, 32 mg | C1CN(CCN(CCN(CCN1CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O | C16H28N4O8
reactant | Sulfo-NHS | 65 μmol, 14 mg | C1C(C(=O)N(C1=O)O)S(=O)(=O)[O-].[Na+]
reactant | EDC | 68 μmol, 13 mg
solvent | H2O | 250 μl | O | H2O
solvent | H2O | 250 μl | O | H2O
product | DOTA sulfo-NHS | C1CN(CCN(CCN(CCN1CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O.C1C(C(=O)N(C1=O)O)S(=O)(=O)[O-].[Na+] | InChI=1S/C16H28N4O8.C4H5NO6S.Na/c21-13(22)9-17-1-2-18(10-14(23)24)5-6-20(12-16(27)28)8-7-19(4-3-17)11-15(25)26;6-3-1-2(12(9,10)11)4(7)5(3)8;/h1-12H2,(H,21,22)(H,23,24)(H,25,26)(H,27,28);2,8H,1H2,(H,9,10,11);/q;;+1/p-1
